US07741327B2
To a solution of (S)-1-amino-3-(3-nitro-pyrazole-1-yl)-propan-2-ol (0.65 g, 3.49 mmol) in dichloromethane (15 mL) was added di-2-pyridyl carbonate (0.76 g, 3.49 mmol). The reaction mixture was stirred at room temperature for 2 h and then diluted with dichloromethane. The organic layer was washed with a saturated sodium chloride solution and dried over magnesium sulfate. The crude product obtained after concentration, was purified by ISCO flash chromatography (Teledyne Isco RediSep Flash Column 40 g; 0% to 10% methanol/dichloromethane) to afford (S)-5-(3-nitro-pyrazol-1-ylmethyl)-oxazolidin-2-one (0.36 g, 49%) as a clear colorless oil: HR-ES-MS m/z calculated for C7H8N4O4 [M]+ 212, observed 213 [M+H]+.

reactant | (S)-1-amino-3-(3-nitro-pyrazole-1-yl)-propan-2-ol | 3.49 mmol, 0.65 g | NC[C@@H](CN1N=C(C=C1)[N+](=O)[O-])O | C6H10N4O3
reactant | di-2-pyridyl carbonate | 3.49 mmol, 0.76 g | C(OC1=NC=CC=C1)(OC1=NC=CC=C1)=O | C11H8N2O3
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
product | (S)-5-(3-nitro-pyrazol-1-ylmethyl)-oxazolidin-2-one | 0.36 g, 49% | [N+](=O)([O-])C1=NN(C=C1)C[C@@H]1CNC(O1)=O | C7H8N4O4
